US03959390
Preparation of glycerol n-hexyl ether:
4.7g of a solution containing 22.7% sodium methylate in methanol is added to 61.2g of dehydrated n-hexanol. The methanol is eliminated by heating the mixture to 155°C. After cooling the mixture to 130°C, 39g of tertio-butyl-glycidyl-ether is introduced gradually over a two hour and 50 minute period. This ether has a boiling point of 87°-88°C under 88 mm of mercury and a purity of 95% as determined by measurement of the epoxide function. The secondary products which it contains are chlorinate derivatives having a chlorine content of 0.58%. The reaction is completed by heating the mixture at reflux for one hour.

reactant | sodium methylate | C[O-].[Na+]
reactant | n-hexanol | 61.2g | C(CCCCC)O | C6H14O
reactant | butyl-glycidyl-ether | C(CCC)OCC1CO1 | C7H14O2
reactant | chlorine | ClCl | Cl2
solvent | methanol | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | glycerol n-hexyl ether | C(CCCCC)OCC(O)CO | C9H20O3
